US06384058B1
1-Trimethylsilyloxy-1-(naphthalen-2-yl)ethylene (7.0 mmol; prepared according to J. Chem. Soc., Perkin Trans. I 1989, 1585) and CsF (0.27 g, 1.76 mmol) were added to a suspension 1-(2-hydroxyphenyl)-3-(3,4-methylenedioxyphenyl)-2-propen-1-one on Wang resin (2.0 g, 1.76 mmol) in dimethyl sulfoxide (30 mL). The reaction mixture was heated to 70° C. for 3 h and the reaction was quenched with 10% AcOH/CH2Cl2. The resin was filtered, washed with DMF (×2) and. alternating MeOH and CH2Cl2 (×5), and dried under high vacuum overnight to give 1-(2-hydroxyphenyl)-3-(3,4-methylenedioxyphenyl)-5-(naphthalen-2-yl)-1,5-pentanedione on Wang resin.

reactant | 1-Trimethylsilyloxy-1-(naphthalen-2-yl)ethylene | 7.0 mmol | C[Si](OC(=C)C1=CC2=CC=CC=C2C=C1)(C)C | C15H18OSi
reactant | CsF | 1.76 mmol, 0.27 g | [F-].[Cs+]
reactant | 1-(2-hydroxyphenyl)-3-(3,4-methylenedioxyphenyl)-2-propen-1-one | OC1=C(C=CC=C1)C(C=CC1=CC2=C(C=C1)OCO2)=O | C16H12O4
solvent | dimethyl sulfoxide | 30 mL | CS(=O)C | C2H6OS
product | 1-(2-hydroxyphenyl)-3-(3,4-methylenedioxyphenyl)-5-(naphthalen-2-yl)-1,5-pentanedione | OC1=C(C=CC=C1)C(CC(CC(=O)C1=CC2=CC=CC=C2C=C1)C1=CC2=C(C=C1)OCO2)=O | C28H22O5
